US05908843
3-(3-(4-amidinopiperazin-1-ylacetamido)benzamido)propionic acid, m.p. 270° (decomposition), from benzyl 3-(3-(4-CBZ-amidinopiperazin-1-ylacetamido)benzamido)propionate (FAB 601; obtainable by reacting tert-butyl piperazin-1-ylacetate with N-CBZ-S-methylisothiourea to give tert-butyl 4-CBZ-amidinopiperazin-1-ylacetate, cleaving the tert-butyl group with 4 N HCl in dioxane and condensing the resulting 4-CBZ-amidinopiperazin-1-ylacetic acid with benzyl 3-(3-aminobenzamido)propionate);

reactant | 3-(3-(4-amidinopiperazin-1-ylacetamido)benzamido)propionic acid | C(N)(=N)N1CCN(CC1)CC(=O)NC=1C=C(C(=O)NCCC(=O)O)C=CC1 | C17H24N6O4
reactant | benzyl 3-(3-(4-CBZ-amidinopiperazin-1-ylacetamido)benzamido)propionate | C(=O)(OCC1=CC=CC=C1)N1CCN(CC1)C(C(=O)NC=1C=C(C(=O)NCCC(=O)OCC2=CC=CC=C2)C=CC1)C(N)=N | C32H36N6O6
reactant | tert-butyl piperazin-1-ylacetate | N1(CCNCC1)CC(=O)OC(C)(C)C | C10H20N2O2
reactant | N-CBZ-S-methylisothiourea | C(=O)(OCC1=CC=CC=C1)NC(SC)=N | C10H12N2O2S
product | tert-butyl 4-CBZ-amidinopiperazin-1-ylacetate | C(=O)(OCC1=CC=CC=C1)N1CCN(CC1)C(C(=O)OC(C)(C)C)C(N)=N | C19H28N4O4
